US07745438B2
(S)-2-Ethoxy-5-hydroxymethylmorpholine-4-carboxylic acid tert-butyl ester
Dissolve (R)-5-(tert-butyldimethylsilanyloxymethyl)-2-ethoxymorpholine-4-carboxylic acid tert-butyl ester (0.39 g, 1.04 mmol) in tetrahydrofuran (3 mL) and add tetrabutylammonium fluoride (2.1 mL, 2.1 mmol, 1.0 M in tetrahydrofuran). Stir 45 minutes at room temperature and concentrate. Purify on silica gel, eluting with 10:90 to 40:60 ethyl acetate in hexanes to give the desired compound.

reactant | (R)-5-(tert-butyldimethylsilanyloxymethyl)-2-ethoxymorpholine-4-carboxylic acid tert-butyl ester | 1.04 mmol, 0.39 g | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1CO[Si](C)(C)C(C)(C)C)OCC | C18H37NO5Si
reactant | tetrabutylammonium fluoride | 2.1 mmol, 1.0 M, 2.1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (S)-2-Ethoxy-5-hydroxymethylmorpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](OCC1CO)OCC | C12H23NO5
